US08349860B2
To a solution of ethyl 2,4-dichloropyrimidine-5-carboxylate (165 mg, 0.746 mmol) and 3-fluoro-4-(thiazol-4-yl)benzenamine (145 mg, 0.747 mmol) in CH3CN (5 mL) at room temperature, DIEA (0.260 mL, 1.49 mmol) was added. The mixture was stirred at room temperature overnight, during which time solids precipitated out. The precipitate was collected, dried on vacuum to give ethyl 2-chloro-4-(3-fluoro-4-(thiazol-4-yl)phenylamino)pyrimidine-5-carboxylate as a solid (186 mg). MS 379.3 and 381.3 (M+H, Cl pattern)

reactant | ethyl 2,4-dichloropyrimidine-5-carboxylate | 0.746 mmol, 165 mg | ClC1=NC=C(C(=N1)Cl)C(=O)OCC | C7H6Cl2N2O2
reactant | 3-fluoro-4-(thiazol-4-yl)benzenamine | 0.747 mmol, 145 mg | FC=1C=C(C=CC1C=1N=CSC1)N | C9H7FN2S
reactant | DIEA | 1.49 mmol, 0.260 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | CH3CN | 5 mL | CC#N | C2H3N
product | ethyl 2-chloro-4-(3-fluoro-4-(thiazol-4-yl)phenylamino)pyrimidine-5-carboxylate | 186 mg | ClC1=NC=C(C(=N1)NC1=CC(=C(C=C1)C=1N=CSC1)F)C(=O)OCC | C16H12ClFN4O2S
